US08039490B2
Trans-(2-Hydroxymethyl-cyclobutylmethyl)-carbamic acid tert-butyl ester
To a solution of Trans-2-(tert-Butoxycarbonylamino-methyl)-cyclobutanecarboxylic acid methyl ester (4.1 g, 16.8 mmol) in methanol (20 mL) at 0° C., sodium Borohydride (1.3 g, 33.6 mmol) was added portionwise. The mixture was stirred 4 h until TLC after TLC indicated completion of the reaction. A saturated solution of ammonium chloride was added, the methanol was removed under vacuum and the water was extracted three times with dichloromethane. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered, evaporated and purified with column chromatography on silica gel using n-Heptane-EtOAc (1:1). The product fractions were concentrated to give 2.8 g (16.8 mmol, 80% yield) of the title compound as a white solid. MS (m/e): 216.3 (M+H+)

reactant | Trans-2-(tert-Butoxycarbonylamino-methyl)-cyclobutanecarboxylic acid methyl ester | 16.8 mmol, 4.1 g | COC(=O)[C@H]1[C@@H](CC1)CNC(=O)OC(C)(C)C | C12H21NO4
reactant | sodium Borohydride | 33.6 mmol, 1.3 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
product | Trans-(2-Hydroxymethyl-cyclobutylmethyl)-carbamic acid tert-butyl ester | 16.8 mmol, 2.8 g, 80% yield | C(C)(C)(C)OC(NC[C@H]1[C@@H](CC1)CO)=O | C11H21NO3
